Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
morphine
 
Attending: ___
 
Chief Complaint:
abdominal pain, vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mrs. ___ is a  ___ year old female with pulmonary fibrosis
on 4L home O2 who presents with abdominal pain that awoke her
around 12:30 AM this morning, associated with multiple episodes
of bilious, nonbloody vomiting. She has a history of 
laparoscopic
cholecystectomy ___ and lower midline ex-lap for ovarian cyst
removal in her early ___. She has felt pain like this one other
time in ___, when she had a complicated hospital course
including ICU stay for respiratory distress requiring
tracheostomy. She last ate food yesterday evening, but since the
pain and vomiting has started, she has been unable to keep down
fluids. She called her son around 3 AM and was brought to ___ for evaluation. CT scan there showed small bowel
obstruction in a focal segment, with unclear determination if
there is a closed-loop obstruction involved. Since arrival to 
the
___ ED, she reports feeling well. She passed some flatus this
morning in the ED when on the bed pan. She has baseline problems
with constipation, and last had a bowel movement approximately 2
days ago. She otherwise reports no chest pain, fever, chills,
dysuria, and at the time of evaluation had no further nausea or
emesis. 

With regards to her pulmonary fibrosis, it is believed that her
current pulmonary fibrosis could have been due to her prolonged
ventilator requirement. The etiology of complicated course was
never elucidated. She recently saw Dr. ___ in clinic for
consultation and has been followed by a pulmonologist for her
increasing dyspnea, cough, and was recently put on home O2.
 
Past Medical History:
Past Medical History:
- Recurrent pneumonias
- pulmonary fibrosis
- GERD

Past Surgical History:
- Ovarian cyst removal (20s)
- laparoscopic cholecystectomy (___)
- tracheostomy (___)
 
Social History:
___
Family History:
Mother - lung cancer
 
Physical Exam:
Physical Exam on Admission:
Vitals:  T 98.2, HR 84, BP 132/75, RR 20, SaO2 99% 3 liters 
GEN: Alert and oriented, no acute distress, conversant and
interactive.
HEENT: Sclerae anicteric, mucous membranes slightly dry,
oropharynx is clear. NC in place
CV: Regular rate and rhythm, no audible murmurs.
PULM/CHEST: Clear to auscultation bilaterally, coarse breath
sounds, respirations are unlabored on nasal cannula
ABD: Soft, obese, nondistended, tender in the mid-right 
quadrant,
+ guarding focally over that area, no rebound tenderness, 
overall
nontender elsewhere.
Ext: No lower extremity edema, distal extremities feel warm and
appear well-perfused.

Physical Exam on Discharge:
Vitals:  Tm 97.9, Tc 97.9, HR 72, BP 130/68, RR 20, SaO2 100% 
2LNC 
GEN: Well-appearing woman sitting in bed in NAD
HEENT: NCAT, MMM, EOMI. NC in place
CV: Regular rate and rhythm, no audible murmurs.
PULM/CHEST: Clear to auscultation bilaterally, respirations are 
unlabored on nasal cannula
ABD: Obese, soft, non distended, overall non-tender, no rebound 
or guarding
Ext: No lower extremity edema, distal extremities feel warm and
appear well-perfused.
Neuro: A&Ox3, strength and sensation grossly intact

 
Pertinent Results:
LABS ON ADMISSION:
___ 12:05PM   WBC-8.5 RBC-3.84* HGB-11.5 HCT-35.5 MCV-92 
MCH-29.9 MCHC-32.4 RDW-12.5 RDWSD-42.2
___ 12:05PM   NEUTS-91.5* LYMPHS-7.2* MONOS-0.4* EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-7.76* AbsLymp-0.61* AbsMono-0.03* 
AbsEos-0.00* AbsBaso-0.03
___ 12:05PM   PLT COUNT-222
___ 12:05PM   GLUCOSE-150* UREA N-12 CREAT-0.8 SODIUM-134 
POTASSIUM-8.0* CHLORIDE-102 TOTAL CO2-23 ANION GAP-17
___ 12:05PM   ALT(SGPT)-21 AST(SGOT)-64* ALK PHOS-101 TOT 
BILI-0.2
___ 12:05PM   ALBUMIN-3.5
___ 12:06PM URINE  BLOOD-NEG NITRITE-POS PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR
___ 12:06PM URINE  RBC-1 WBC-2 BACTERIA-FEW YEAST-NONE 
EPI-3
___ 12:06PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:09PM   ___ PTT-34.6 ___
___ 12:26PM   LACTATE-2.0

LABS ON DISCHARGE:
(last labs ___ 04:49AM BLOOD WBC-11.6* RBC-3.27* Hgb-9.9* Hct-30.5* 
MCV-93 MCH-30.3 MCHC-32.5 RDW-12.8 RDWSD-43.4 Plt ___
___ 04:49AM BLOOD Plt ___
___ 04:49AM BLOOD Glucose-103* UreaN-13 Creat-0.7 Na-138 
K-4.3 Cl-103 HCO3-30 AnGap-9

MICROBIOLOGY:
none this admission

IMAGING:
OSH CT A/P Non-contrast ___: Limited small bowel obstruction 
in the
midline and right abdominal, possible closed loop obstruction
___ 04:49AM BLOOD Calcium-8.8 Phos-3.7 Mg-2.3

CXR ___:
Enteric tube tip within the stomach. Re-demonstration of 
fibrosing chronic interstitial lung disease. 
 
Brief Hospital Course:
Mrs. ___ is a ___ year old female with severe pulmonary 
fibrosis on 4L home O2 who is transferred from outside hospital 
ER with abdominal pain associated with multiple episodes of 
bilious, nonbloody vomiting consistent with small bowel 
obstruction, unclear if closed loop. CT scan was performed at 
outside hospital without oral contrast. Given her pulmonary 
fibrosis, she would not be a good candidate for surgery.

As the patient was stable with normal vital signs and labs, we 
chose to closely observe and conservatively manage the SBO with 
NGT, IVF, and monitor her urine output closely with foley. A 
nasogastric tube was placed in the Emergency Department and 
placed to suction. She was admitted to the Acute Care Surgery 
service and placed on nothing by mouth and given IV fluids.

The patient's abdominal pain improved with conservative 
management. The patient's pain improved and NGT was removed and 
she was placed on a clear liquid diet on ___. IV fluids and 
her foley was stopped and she passed a voiding trial. She 
tolerated a clear diet well and she was advanced from clears to 
a regular diet on the morning of ___. She also tolerated 
this diet well and she had an improved abdominal exam. She was 
discharged from the hospital on the afternoon of ___ with 
instructions to follow-up at the Acute Care Surgery Clinic in 
___ weeks, as well as her PCP. She was given no new medications 
on discharge. She was maintained on her home O2 during this 
admission.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.
 
Medications on Admission:
- albuterol sulfate 2.5 mg/3 mL (0.083 %)  1 neb inhaled every
four hours as needed for SOB/cough 
- ProAir HFA 90 mcg/actuation aerosol inhaler. 2 puffs inhaled
every four hours as needed for SOB/cough
- ipratropium bromide 0.03 % nasal spray. 2 sprays nasal twice a
day 
- omeprazole 20 mg capsule,delayed release. 1 capsule(s) by 
mouth
HS 
- OXYGEN
- aspirin 81 mg tablet, 1 tablet(s) by mouth daily
- Daily Multi-Vitamin tablet QD
 
Discharge Medications:
- albuterol sulfate 2.5 mg/3 mL (0.083 %)  1 neb inhaled every
four hours as needed for SOB/cough 
- ProAir HFA 90 mcg/actuation aerosol inhaler. 2 puffs inhaled
every four hours as needed for SOB/cough
- ipratropium bromide 0.03 % nasal spray. 2 sprays nasal twice a
day 
- omeprazole 20 mg capsule,delayed release. 1 capsule(s) by 
mouth
HS 
- OXYGEN
- aspirin 81 mg tablet, 1 tablet(s) by mouth daily
- Daily Multi-Vitamin tablet QD
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the hospital because you had a small bowel 
obstruction. We treated you with a nasogastric tube and bowel 
rest, and you got better. We removed the tube and you tried 
regular food and you did well. It is now safe to go home.

Please return to the hospital if your symptoms return.

We are not making any changes to your medications.

Please follow-up with your primary care doctor and at the ___ 
Care Surgery Clinic. Contact information is below.

It was a pleasure taking care of you.
-Your ___ Surgery Team
 
Followup Instructions:
___